US04618617
To a solution of 1.32 g of 3-chloromethyl-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole in 30 ml of dry DMF was added 1.58 g of potassium acetate. After stirring at room temperature overnight, the reaction mixture was diluted with water and extracted with benzene. The organic phase was washed with water, dried over sodium sulfate and evaporated. The residue was chromatographed over silica gel using benzene to yield 0.96 g of 3-acetoxymethyl-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole, nD23 1.5635.

reactant | 3-chloromethyl-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole | 1.32 g | ClCC1=NOC(=N1)C(C1=CC(=C(C=C1)C1=CC=CC=C1)F)C | C17H14ClFN2O
reactant | potassium acetate | 1.58 g | C(C)(=O)[O-].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-acetoxymethyl-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole | 0.96 g | C(C)(=O)OCC1=NOC(=N1)C(C1=CC(=C(C=C1)C1=CC=CC=C1)F)C | C19H17FN2O3
